US08466186B2
(d) N-(3-Amino-4-trifluoromethyl-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide
The compound was prepared in analogy to the procedures in Example 94, step (c) and Example 94, step (b) using tert-butyl 5-aminomethyl-2-trifluoromethyl-phenylcarbamate (2.09 g; 7.20 mmol), 1-trifluoromethyl-cyclopropanecarboxylic acid (1.11 g; 7.20 mmol), HBTU (2.73 g; 7.20 mmol), TEA (2.19 g; 21.6 mmol), DMF (25 mL), TFA (10 mL) and DCM (50 mL). Yield: 1.8 g (77%).

reactant | tert-butyl 5-aminomethyl-2-trifluoromethyl-phenylcarbamate | 7.20 mmol, 2.09 g | NCC=1C=CC(=C(C1)NC(OC(C)(C)C)=O)C(F)(F)F | C13H17F3N2O2
reactant | 1-trifluoromethyl-cyclopropanecarboxylic acid | 7.20 mmol, 1.11 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | HBTU | 7.20 mmol, 2.73 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | N-(3-Amino-4-trifluoromethyl-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide | NC=1C=C(CNC(=O)C2(CC2)C(F)(F)F)C=CC1C(F)(F)F | C13H12F6N2O
